US07414060B2
3-(3,5-Difluoro-phenylamino)-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide in accordance with the general method of example 20 using 1-Bromo-3,5-difluorobenzene instead of 3-bromopyridine to yield the final compound as a yellow solid, MS (ISP): m/e=391 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide | COCC=1N=C(SC1)NC(=O)C1=NC(=CC=C1N)C | C12H14N4O2S
reactant | 1-Bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
product | 3-(3,5-Difluoro-phenylamino)-6-methyl-pyridine-2-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide | COCC=1N=C(SC1)NC(=O)C1=NC(=CC=C1NC1=CC(=CC(=C1)F)F)C | C18H16F2N4O2S
